US09108973B2
(Step 2) Synthesis of (S)-tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)pyrrolidine-1-carboxylate
A suspension of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (446 mg), (R)-tert-butyl 3-(methylsulfonyloxy)pyrrolidine-1-carboxylate (450 mg), potassium carbonate (692 mg) in DMF (5.0 ml) was stirred at 85° C. for 6 hours. Ethyl acetate and water were added thereto to separate the organic layer. The organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The resulting residue was purified by basic silica gel column chromatography (developing solvent: hexane/ethyl acetate) to obtain the title compound as a light-yellow, amorphous substance (354 mg). Physical properties: m/z [M+H]+ 431.1

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 446 mg | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | (R)-tert-butyl 3-(methylsulfonyloxy)pyrrolidine-1-carboxylate | 450 mg | CS(=O)(=O)O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C10H19NO5S
reactant | potassium carbonate | 692 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)-tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)pyrrolidine-1-carboxylate | NC1=C2C(=NC=N1)N(N=C2I)[C@@H]2CN(CC2)C(=O)OC(C)(C)C | C14H19IN6O2
